US04024143
5-fluoro-6-(2,2,2-trifluoroethoxy)-5,6-dihydrouracil, 5.76 g, was boiled under reflux with hexamethylsilazane, 24.2 g, for 16 hours. Distillation of the resulting product gave bis-trimethylsilyl-5-fluorouracil 5.6 g (67% yield, based on theory).

reactant | 5-fluoro-6-(2,2,2-trifluoroethoxy)-5,6-dihydrouracil | FC1C(NC(NC1OCC(F)(F)F)=O)=O | C6H6F4N2O3
reactant | hexamethylsilazane | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
product | bis-trimethylsilyl-5-fluorouracil | 5.6 g, 67% yield | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
